US06703387B2
(9-chloro-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester was prepared in an analogous fashion to (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester, prepared in Example 1, by replacing 2-fluorobenzoic acid with 2-fluoro-3-chlorobenzoic acid and N-methylethylenediamine with ethylenediamine.

reactant | (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=CC=C2 | C15H23N2O3P
reactant | 2-fluoro-3-chlorobenzoic acid | FC1=C(C(=O)O)C=CC=C1Cl | C7H4ClFO2
reactant | N-methylethylenediamine | CNCCN | C3H10N2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | (9-chloro-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=C1C2=C(NCCN1)C(=CC=C2)Cl | C14H20ClN2O3P
